US04616013
A solution of 5-amino-2-methyl-1-indanone (10.0 g) in fluoroboric acid (40%; 28.0 ml) was treated at 0°-5° C. with sodium nitrite (4.7 g) in water (8.0 ml). The diazonium salt solution was added to cuprous cyanide (25.0 g) and potassium cyanide (37.5 g) in water (100 ml) at 40° . The mixture was stirred at 10° for 10 minutes, cooled and extracted with chloroform. The extract was evaporated and the residue recrystallised from aqueous ethanol to give 5-cyano-2-methyl-1-indanone(7.89 g; m.p. 90°-91° C.).

reactant | 5-amino-2-methyl-1-indanone | 10.0 g | NC=1C=C2CC(C(C2=CC1)=O)C | C10H11NO
reactant | sodium nitrite | 4.7 g | N(=O)[O-].[Na+]
reactant | potassium cyanide | 37.5 g | [C-]#N.[K+]
solvent | fluoroboric acid | 28.0 ml | F[B-](F)(F)F.[H+]
solvent | water | 8.0 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-cyano-2-methyl-1-indanone | 7.89 g | C(#N)C=1C=C2CC(C(C2=CC1)=O)C | C11H9NO
